US04954507
A mixture of 653 mg (2 mmoles) 1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-7-chloro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester and 732 mg (3 mmoles) 8-trifluoroacetyl-3,8-diazabicyclo[3.2.1]octan,hydrochloride and 985 mg (6.48 mmoles) 1,8-diazabicyclo[5.4.0] undec-7-ene in 30 mL acetonitrile was heated at 60° C. for 72 hours. The solution was cooled and evaporated to dryness. The residue was worked up with dichloromethane and water. The organic layer was dried over magnesium sulfate and evaporated to give an oil. Purification was achieved by silicagel column chromatography to obtain 220 mg of 7-(8-trifluoroacetyl-3,8-diazabicyclo[3.2.1]octan-3-yl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester. MP 205° C.

reactant | 1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-7-chloro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 2 mmoles, 653 mg | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)Cl)C(C)(C)C | C15H16ClFN2O3
reactant | 8-trifluoroacetyl-3,8-diazabicyclo[3.2.1]octan,hydrochloride | 3 mmoles, 732 mg | Cl.FC(C(=O)N1C2CNCC1CC2)(F)F
reactant | 1,8-diazabicyclo[5.4.0] undec-7-ene | 6.48 mmoles, 985 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 7-(8-trifluoroacetyl-3,8-diazabicyclo[3.2.1]octan-3-yl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 220 mg | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)N1CC2CCC(C1)N2C(C(F)(F)F)=O)C(C)(C)C | C23H26F4N4O4
